US04293702
2-Bromo-4-chlorobenzothiazole (6.21 g, 0.025 mole) and 94% sodium hydroxide (1.57 g, 0.037 mole) were added to methanol (100 c.c.), and the mixture was heated under reflux for 30 minutes. After cooling, water (100 c.c.) was added to the reaction solution, followed by ice-cooling. The deposited crystals were filtered and washed with water to obtain 4.68 g of 2-methoxy-4-chlorobenzothiazole. Yield 93.8%, purity 99.3%, m.p. 55°-57° C.

reactant | 2-Bromo-4-chlorobenzothiazole | 0.025 mole, 6.21 g | BrC=1SC2=C(N1)C(=CC=C2)Cl | C7H3BrClNS
reactant | sodium hydroxide | 0.037 mole, 1.57 g | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-methoxy-4-chlorobenzothiazole | 4.68 g, Yield 93.8% | COC=1SC2=C(N1)C(=CC=C2)Cl | C8H6ClNOS
